US07713994B2
[6-(4-methylpiperazin-1-yl)pyridazin-3-yl]amine
An amount of 1.0 g (7.72 mmol) of 3-amino-6-chloropyridazine, 5-chloro pyridine hydrogen chloride (4.46 g, 38.6 mmol), and piperazine (5.1 mL, 72 mmol) were placed in a pre-heated oil bath at 165-170° C. for 4 hours. After cooling, the mixture is basified with saturated potassium carbonate, extracted 3× with ethyl acetate and dried over magnesium sulfate. The oily residue is purified by column chromatography to give a brown solid 800 mg (53% yield). MS (ESI) m/z 194.3 (M+1)+

reactant | 3-amino-6-chloropyridazine | 7.72 mmol, 1.0 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | 5-chloro pyridine hydrogen chloride | 38.6 mmol, 4.46 g | Cl.ClC=1C=CC=NC1
reactant | piperazine | 72 mmol, 5.1 mL | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | [6-(4-methylpiperazin-1-yl)pyridazin-3-yl]amine | 800 mg, 53% yield | CN1CCN(CC1)C1=CC=C(N=N1)N | C9H15N5
